Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: MEDICINE
 
Allergies: 
No Known Allergies / Adverse Drug Reactions
 
Attending: ___.
 
Chief Complaint:
abdominal pain, diarrhea, lightheadedness
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
 This is a ___ female with PMHx poorly controlled DM1, 
deaf/mute, and HTN, who is presenting with abdominal pain, 
diarrhea, and syncope. History taken with help of ASL 
interpreter.  

 She reports that she was in her normal state of health until 
she developed abdominal pain and diarrhea this morning. 
Throughout the course of the day, she reports that she had 
approximately 6 episodes of diarrhea. She denies any blood in 
her stools or melena. SHe does not some recent fevers and 
chills. Due to the abdominal pain, she presented to the ED. In 
the ED, she had an unremarkable work up and was discharged. 
After being discharged, she walked to the bus stop and started 
feeling dizzy. She reports that she vomiting and then felt weak 
and fell to the ground. She reports that she was caught by some 
people and did not hit her head or lose consciousness. She had 
some associated chest discomfort prior to falling. She denies 
any preceding diaphoresis or palpitations.  
 
 In the ED, initial vitals were: 96.6 72 160/55 18 100% RA  
 -Exam notable for: normal exam  
 -Labs notable for: normal Chem 7, trop negative x 2, H/H stable 
at 12.7/38.5, hyperglycemia in the upper 200s  
 -Imaging notable for:  
 CT abd/pelvis: No acute findings to explain patient's symptoms. 
 
 -Patient was given  
 ___ 09:52 SC Insulin 18 UNIT  
 ___ 09:52 PO/NG Lisinopril 20 mg  
 ___ 09:52 PO/NG Hydrochlorothiazide 25 mg  
 ___ 09:52 PO/NG MetFORMIN (Glucophage) 1500 mg  
 ___ 09:52 PO Omeprazole 20 mg  
 ___ 09:52 RIGHT EYE Timolol Maleate 0.5% 1 DROP  
 ___ 12:04 SC Insulin 6 Units  
 ___ 13:16 PO Acetaminophen 650 mg  
 -Decision was made to admit for placement in SNF  
 -Vitals notable for normal and stable vital signs  
 
 On the floor, she reports that her nausea has improved some and 
she is hungry for dinner, but she still has abdominal pain.  
 
Past Medical History:
 DM1  
 HTN  
 Dyspepsia  
 Uterine fibroids  
 PDA  
 Deaf/Mute (Alport's Syndrome leading to deafness) 
 
Social History:
___
Family History:
Her father died in ___ a long time ago. She does not know from 
what. Mother with DM and CAD.  
 
Physical Exam:
ADMISSION PHYSICAL EXAM: 
#ERROR!

 VS: 98.8 133/61 94 18 99% RA  
 Gen: resting comfortably in bed, NAD, AAOx3  
 HEENT: atraumatic, normocephalic, PERRL, EOMI, MMM, no 
pharyngeal erythema, no LAD  
 CV: normal S1S2, RRR, no murmurs, rubs, or gallops  
 Pulm: CTAB, no w/r/r  
 Abd: +BS, soft, non-distended, diffuse tenderness to palpation  

 GU: no foley  
 Ext: 2+ pulses distally bilaterally, no edema  
 Skin: no rashes or lesions noted  
 Neuro: CN II-XII in tact, no focal deficits  
 Psych: good eye contact, normal affect 

DISCHARGE PHYSICAL EXAM: 
#ERROR!
 VS: 98.2 131/53 88 18 100 RA  
 Gen: resting comfortably in bed, NAD, AAOx3  
 HEENT: atraumatic, normocephalic, PERRL, EOMI, MMM, no 
pharyngeal erythema, no LAD  
 CV: normal S1S2, RRR, no murmurs, rubs, or gallops  
 Pulm: CTAB, no w/r/r  
 Abd: +BS, soft, non-distended, slight tenderness to palpation 
especially in epigastric region. 
 GU: no foley 
 Back: paraspinal tenderness on R side, no midline tenderness.  
 Ext: 2+ pulses distally bilaterally, no edema  
 Skin: no rashes or lesions noted  
 Neuro: CN II-XII in tact, no focal deficits  
 Psych: good eye contact, normal affect  
 
Pertinent Results:
ADMISSION LABS: 
#ERROR!
___ 03:00PM BLOOD WBC-3.7* RBC-4.47 Hgb-12.7 Hct-38.5 
MCV-86 MCH-28.4 MCHC-33.0 RDW-13.0 RDWSD-40.1 Plt ___
___ 03:00PM BLOOD Neuts-29.3* Lymphs-56.5* Monos-10.1 
Eos-3.0 Baso-1.1* AbsNeut-1.08* AbsLymp-2.08 AbsMono-0.37 
AbsEos-0.11 AbsBaso-0.04
___ 03:00PM BLOOD Plt ___
___ 03:00PM BLOOD Glucose-127* UreaN-14 Creat-0.7 Na-141 
K-4.1 Cl-105 HCO3-28 AnGap-12
___ 03:00PM BLOOD ALT-28 AST-22 AlkPhos-84 TotBili-0.3
___ 03:00PM BLOOD Lipase-42
___ 10:30PM BLOOD cTropnT-<0.01
___ 03:00PM BLOOD cTropnT-<0.01
___ 03:00PM BLOOD Albumin-4.1
___ 03:00PM BLOOD D-Dimer-186
___ 03:17PM BLOOD Lactate-1.0

RELEVANT LABS: 
#ERROR!
___ 10:30PM BLOOD cTropnT-<0.01
___ 03:00PM BLOOD cTropnT-<0.01
___ 03:00PM BLOOD Lipase-42

PERTINENT IMAGING/STUDIES: 
#ERROR!

 CT ABD/PELVIS ___  
 1. No acute findings to explain the patient's symptoms.  
 2. Fibroid uterus.  
 3. Cortical scarring in the upper pole of the right kidney, 
likely the sequela of prior infection or ischemic insult.  

MICRO: 
#ERROR!
NONE

DISCHARGE LABS: 
#ERROR!
___ 05:41AM BLOOD WBC-3.6* RBC-4.35 Hgb-12.5 Hct-37.3 
MCV-86 MCH-28.7 MCHC-33.5 RDW-12.9 RDWSD-40.2 Plt ___
___ 05:41AM BLOOD Plt ___
___ 05:41AM BLOOD Glucose-208* UreaN-12 Creat-0.7 Na-140 
K-3.9 Cl-105 HCO3-29 AnGap-10
___ 05:41AM BLOOD Calcium-9.1 Phos-3.8 Mg-1.8
 
Brief Hospital Course:
Ms. ___ is a ___ female with PMHx poorly controlled 
DM1, deaf/mute, and HTN, who is presenting with abdominal pain, 
diarrhea, and lightheadedness. She had a fall due to near 
syncope where she hurt her left hip and back. CT Abdomen/Pelvis 
showed a fibroid uterus, but no reason for the patient's 
symptoms. She was given IVF and improved over time. She had back 
and left hip pain which limited her ambulation in the setting of 
her lightheadedness. She improved and was able to be discharged. 


 # Abdominal pain/diarrhea/vomiting: Patient with 6 days of 
abdominal pain, diarrhea prior to admission. CT abdomen in ED 
without acute intraabdominal process. Symptoms most likely 
related to a viral gastroenteritis vs. gastroparesis. Abdominal 
pain improved on HD2 with concomitant improvement in diarrhea. 
Continued home metoclopramide 10 mg q6h PRN nausea. 
 
 #Back Pain: Due to fall prior to admission on bus, struck R hip 
and back on bus seat. Pain with ambulation. TTP along leg and 
paraspinal muscles. Given lidocaine patch and Tylenol. 

 # Lightheadedness: Patient with one episode of lightheadedness 
and associated chest pressure prior to falling to the ground. 
Most likely related to vagal response in setting of vomiting vs. 
hypovolemia in the setting of recent diarrhea. No LOC.  ACS less 
likely with two sets of negative trops. Arrhythmia less likely 
given her symptoms prior to her syncope. ELectrolytes wnl. She 
had no further similar episodes.  

 # DM type I: Patient with long standing DM type 1, followed by 
___.  Continued Lantus 18 units QAM and ISS while inpatient.  
Restarted on home regimen post-discharge.  

 # HTN: BP stable throughout admission. Continued Lisinopril 20 
mg PO/NG DAILY. Held Hydrochlorothiazide 25 mg PO/NG DAILY  due 
to concern for hypovolemia and also due to normotension. 

 # HLD: Continued Pravastatin 20 mg daily  

 # Glaucoma: Continue Timolol Maleate 0.5% 1 DROP BOTH EYES BID  


Transitional Issues: 
[ ] HCTZ was stopped due to concern for hypovolemia and 
normotension while inpatient. 

 # CODE: Full 
 # CONTACT: ___ (sister) ___
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Aspirin 81 mg PO DAILY 
2. Hydrochlorothiazide 25 mg PO DAILY 
3. Lisinopril 20 mg PO DAILY 
4. MetFORMIN (Glucophage) 850 mg PO BID 
5. Pravastatin 20 mg PO DAILY 
6. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
7. Metoclopramide 10 mg PO Q6H:PRN nausea 
8. Omeprazole 40 mg PO BID 
9. Senna 8.6 mg PO BID 
10. Glargine 18 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner

 
Discharge Medications:
1. Aspirin 81 mg PO DAILY 
2. Glargine 18 Units Breakfast
Humalog 10 Units Lunch
Humalog 10 Units Dinner
3. Lisinopril 20 mg PO DAILY 
4. Metoclopramide 10 mg PO Q6H:PRN nausea 
5. Omeprazole 40 mg PO BID 
6. Pravastatin 20 mg PO DAILY 
7. Senna 8.6 mg PO BID 
8. Timolol Maleate 0.5% 1 DROP BOTH EYES BID 
9. MetFORMIN (Glucophage) 850 mg PO BID 
10. Acetaminophen 650 mg PO Q6H:PRN pain 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Primary: 
Gastroenteritis
Back Pain

Secondary: 
Hypertension
Diabetes Mellitus
 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.
 
Discharge Instructions:
Ms. ___, 

You came to the hospital because you were having multiple 
episodes of diarrhea and fell prior to coming to the Emergency 
Department.  You were admitted for hydration and to ensure you 
were safe to go home.  We gave you some IV fluids and you 
improved.  Your back pain is due to your fall and this improved 
with a lidocaine patch and some Tylenol. You should continue to 
take Tylenol over the counter at home. 

Please follow-up with your primary care physician. It was a 
pleasure taking care of you, 

-Your ___ Team
 
Followup Instructions:
___